US07314888B1
In 10 ml of methylene chloride is dissolved 1.00 g of 3-(acetyloxy)-4-isobutoxybenzoic acid. After adding 0.41 ml of oxalyl chloride and 20 μl of N,N-dimethylformamide successively at ambient temperature, the mixture thus obtained is stirred at ambient temperature for one hour. Then, 1.06 g of aluminum chloride and 1.15 g of 1,3-diisobutoxybenzene are successively added at 5-10° C., and the mixture is stirred at the same temperature as above for one hour. The reaction mixture is added to a mixture of methylene chloride and ice water, and the organic layer is separated. The organic layer is successively washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography [eluent; n-hexane:ethyl acetate=5:1] to obtain 1.24 g of 5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl acetate as a yellow oily product.

reactant | 3-(acetyloxy)-4-isobutoxybenzoic acid | 1.00 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1OCC(C)C | C13H16O5
reactant | oxalyl chloride | 0.41 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 1.06 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-diisobutoxybenzene | 1.15 g | C(C(C)C)OC1=CC(=CC=C1)OCC(C)C | C14H22O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 20 μl | CN(C=O)C | C3H7NO
product | 5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl acetate | 1.24 g | C(C)(=O)OC1=C(C=CC(=C1)C(C1=C(C=C(C=C1)OCC(C)C)OCC(C)C)=O)OCC(C)C | C27H36O6
